*==============================================
*Copyright (c) 1997 MicroCode Engineering, Inc.
*All Rights Reserved
*==============================================

*==================================
*Regulator3 Pin Order: In, Com, Out
*==================================

*==================================
*LM317 Adjustable Voltage Regulator - pin order: In, Adj, Out
*Adjustable Voltage Regulator pkg:TO-220 3,1,2
.SUBCKT LM317 1 2 3
J1 1 3 4 JN
Q2 5 5 6 QPL .1
Q3 5 8 9 QNL  .2
Q4 8 5 7 QPL .1
Q5 81 8 3 QNL .2
Q6 3 81 10 QPL .2
Q7 12 81 13 QNL  .2
Q8 10 5 11 QPL  .2 
Q9 14 12 10 QPL .2
Q10 16 5 17 QPL  .2
Q11 16 14 15 QNL .2
Q12 3 20 16 QPL .2
Q13 1 19 20 QNL .2
Q14 19 5 18 QPL .2
Q15 3 21 19 QPL .2
Q16 21 22 16 QPL .2
Q17 21 3 24 QNL   .2
Q18 22 22 16 QPL .2
Q19 22 3 241 QNL 2
Q20 3 25 16 QPL .2
Q21 25 26 3 QNL .2
Q22A 35 35 1 QPL 2
Q22B 16 35 1 QPL 2
Q23 35 16 30 QNL  2
Q24A 27 40 29 QNL .2
Q24B 27 40 28 QNL .2
Q25 1 31 41 QNL 5
Q26 1 41 32 QNL 50
D1 3 4 DZ
D2 33 1 DZ
D3 29 34 DZ
R1 1 6 310
R2 1 7 310
R3 1 11 190
R4 1 17 82
R5 1 18 5.6K
R6 4 8 100K
R7 8 81 130
R8 10 12 12.4K
R9 9 3 180
R10 13 3 4.1K
R11 14 3 5.8K
R12 15 3 72
R13 20 3 5.1K
R14 2 24 12K
R15 24 241 2.4K
R16 16 25 6.7K
R17 16 40 12K
R18 30 41 130
R19 16 31 370
R20 26 27 13K
R21 27 40 400
R22 3 41 160
R23 33 34 18K
R24 28 29 160
R25 28 32 3
R26 32 3 .1
C1 21 3 30PF
C2 21 2 30PF
C3 25 26 5PF
CBS1 5 3 2PF
CBS2 35 3 1PF
CBS3 22 3 1PF
.MODEL JN NJF(BETA=1E-4 VTO=-7)
.MODEL DZ D(BV=6.3)
.MODEL QNL NPN(EG=1.22 BF=80 RB=100 CCS=1.5PF TF=.3NS TR=6NS CJE=2PF
+ CJC=1PF VAF=100)
.MODEL QPL PNP(BF=40 RB=20 TF=.6NS TR=10NS CJE=1.5PF CJC=1PF VAF=50)
.ENDS LM317

*==================================
*78L05 MCE 7-12-95
*78L05 circuit taken from Signetics 1977 Analog Data Book page 160
*5V 100mA Voltage Regulator pkg:TO-92 1,2,3
.SUBCKT 78L05 1 2 3
Q1 5 5 1 QPNP
Q2 10 5 1 QPNP
Q3 1 11 12 QNPN
Q4 1 10 11 QNPN
Q5 10 13 14 QNPN
Q6 1 4 20 QNPN
Q7 10 19 21 QNPN
Q8 9 9 2 QNPN
Q9 18 9 22 QNPN OFF
Q10 8 18 2 QNPN
Q11 5 7 17 QNPN
Q12 5 16 17 QNPN
Q13 10 15 17 QNPN
C1 15 10 20E-12
D1 2 4 DZ5V
Q14 2 8 7 QPNP
R17 2 17 4E3
R16 4 1 20E3
R15 16 20 4E3
R14 19 16 700
R13 2 19 300
R12 2 21 100
R11 9 7 1E3
R10 18 7 10E3
R9 7 3 2.2E3
R8 2 22 1E3
R7 8 7 2E3
R6 2 15 1.4E3
R5 15 3 4.5E3
R4 3 14 100
R3 3 12 2
R2 13 11 500
R1 13 12 200

.MODEL QPNP PNP(IS=1.05E-15 BF=220 VAF=240 IKF=0.1 ISE=1.003E-9
+ NE=4 ISC=1.003E-9 NC=4 RB=3 RE=0.5 RC=0.2 CJE=5.7E-12 VJE=0.75 TF=3.35E-10
+ CJC=4.32E-12 VJC=0.75 TR=1.7E-7 VJS=0.75 KF=4E-15 )

.MODEL QNPN NPN(IS=8.11E-14 BF=205 VAF=113 IKF=0.5 ISE=1.06E-11
+ NE=2 BR=4 VAR=24 IKR=0.225 RB=1.37 RE=0.343 RC=0.137 CJE=2.95E-11
+ TF=3.97E-10 CJC=1.52E-11 TR=8.5E-8 XTB=1.5 )

.MODEL DZ5V D(IS=1E-11 RS=7.708 N=1.27 TT=5E-8 CJO=4.068E-10 VJ=0.75
+ M=0.33 BV=4.946 IBV=0.01 )
.ENDS 78L05

*==================================
*78L08 MCE 7-12-95
*78L08 circuit taken from Signetics 1977 Analog Data Book page 160
*8.2V 100mA Voltage Regulator pkg:TO-92 1,2,3
.SUBCKT 78L08 1 2 3
Q1 5 5 1 QPNP
Q2 10 5 1 QPNP
Q3 1 11 12 QNPN
Q4 1 10 11 QNPN
Q5 10 13 14 QNPN
Q6 1 4 20 QNPN
Q7 10 19 21 QNPN
Q8 9 9 2 QNPN
Q9 18 9 22 QNPN OFF
Q10 8 18 2 QNPN
Q11 5 7 17 QNPN
Q12 5 16 17 QNPN
Q13 10 15 17 QNPN
C1 15 10 20E-12
D1 2 4 DZ8V
Q14 2 8 7 QPNP
R17 2 17 4E3
R16 4 1 20E3
R15 16 20 4E3
R14 19 16 700
R13 2 19 300
R12 2 21 100
R11 9 7 1E3
R10 18 7 10E3
R9 7 3 3.3E3
R8 2 22 1E3
R7 8 7 2E3
R6 2 15 1.4E3
R5 15 3 6.2E3
R4 3 14 100
R3 3 12 2
R2 13 11 500
R1 13 12 200

.MODEL QPNP PNP(IS=1.05E-15 BF=220 VAF=240 IKF=0.1 ISE=1.003E-9
+ NE=4 ISC=1.003E-9 NC=4 RB=3 RE=0.5 RC=0.2 CJE=5.7E-12 VJE=0.75 TF=3.35E-10
+ CJC=4.32E-12 VJC=0.75 TR=1.7E-7 VJS=0.75 KF=4E-15 )

.MODEL QNPN NPN(IS=8.11E-14 BF=205 VAF=113 IKF=0.5 ISE=1.06E-11
+ NE=2 BR=4 VAR=24 IKR=0.225 RB=1.37 RE=0.343 RC=0.137 CJE=2.95E-11
+ TF=3.97E-10 CJC=1.52E-11 TR=8.5E-8 XTB=1.5 )

.MODEL DZ8V D(IS=1E-11 RS=3.858 N=1.27 TT=5E-8 CJO=2.749E-10 VJ=0.75
+ M=0.33 BV=8.123 IBV=0.01 )
.ENDS 78L08

*==================================
*78L12 MCE 7-12-95
*78L12 circuit taken from Signetics 1977 Analog Data Book page 160
*12V 100mA Voltage Regulator pkg:TO-92 1,2,3
.SUBCKT 78L12 1 2 3
Q1 5 5 6 QPNP
Q2 10 5 6 QPNP
Q3 6 11 12 QNPN
Q4 6 10 11 QNPN
Q5 10 13 14 QNPN
Q6 6 4 20 QNPN
Q7 10 19 21 QNPN
Q8 9 9 2 QNPN
Q9 18 9 22 QNPN OFF
Q10 8 18 2 QNPN
Q11 5 7 17 QNPN
Q12 5 16 17 QNPN
Q13 10 15 17 QNPN
C1 15 10 20E-12
D1 2 4 DZ10V
Q14 2 8 7 QPNP
R18 1 6 1E-6
R17 2 17 4E3
R16 4 6 20E3
R15 16 20 4E3
R14 19 16 700
R13 2 19 300
R12 2 21 100
R11 9 7 1E3
R10 18 7 10E3
R9 7 3 6.2E3
R8 2 22 1E3
R7 8 7 2E3
R6 2 15 1.4E3
R5 15 3 7.8E3
R4 3 14 100
R3 3 12 2
R2 13 11 500
R1 13 12 200

.MODEL QPNP PNP(IS=1.05E-15 BF=220 VAF=240 IKF=0.1 ISE=1.003E-9
+ NE=4 ISC=1.003E-9 NC=4 RB=3 RE=0.5 RC=0.2 CJE=5.7E-12 VJE=0.75 TF=3.35E-10
+ CJC=4.32E-12 VJC=0.75 TR=1.7E-7 VJS=0.75 KF=4E-15 )

.MODEL QNPN NPN(IS=8.11E-14 BF=205 VAF=113 IKF=0.5 ISE=1.06E-11
+ NE=2 BR=4 VAR=24 IKR=0.225 RB=1.37 RE=0.343 RC=0.137 CJE=2.95E-11
+ TF=3.97E-10 CJC=1.52E-11 TR=8.5E-8 XTB=1.5 )

.MODEL DZ10V D(IS=1E-11 RS=8.483 N=1.27 TT=5E-8 CJO=2.334E-10 VJ=0.75
+ M=0.33 BV=9.83 IBV=0.01 )
.ENDS 78L12

*==================================
*78L15 MCE 7-12-95
*78L15 circuit taken from Signetics 1977 Analog Data Book page 160
*15V 100mA Voltage Regulator pkg:TO-92 1,2,3
.SUBCKT 78L15 1 2 3
Q1 5 5 6 QPNP
Q2 10 5 6 QPNP
Q3 6 11 12 QNPN
Q4 6 10 11 QNPN
Q5 10 13 14 QNPN
Q6 6 4 20 QNPN
Q7 10 19 21 QNPN
Q8 9 9 2 QNPN
Q9 18 9 22 QNPN OFF
Q10 8 18 2 QNPN
Q11 5 7 17 QNPN
Q12 5 16 17 QNPN
Q13 10 15 17 QNPN
C1 15 10 20E-12
D1 2 4 DZ10V
Q14 2 8 7 QPNP
R18 1 6 1E-6
R17 2 17 4E3
R16 4 6 20E3
R15 16 20 4E3
R14 19 16 700
R13 2 19 300
R12 2 21 100
R11 9 7 1E3
R10 18 7 10E3
R9 7 3 5E3
R8 2 22 1E3
R7 8 7 2E3
R6 2 15 1.4E3
R5 15 3 10.1E3
R4 3 14 100
R3 3 12 2
R2 13 11 500
R1 13 12 200

.MODEL QPNP PNP(IS=1.05E-15 BF=220 VAF=240 IKF=0.1 ISE=1.003E-9
+ NE=4 ISC=1.003E-9 NC=4 RB=3 RE=0.5 RC=0.2 CJE=5.7E-12 VJE=0.75 TF=3.35E-10
+ CJC=4.32E-12 VJC=0.75 TR=1.7E-7 VJS=0.75 KF=4E-15 )

.MODEL QNPN NPN(IS=8.11E-14 BF=205 VAF=113 IKF=0.5 ISE=1.06E-11
+ NE=2 BR=4 VAR=24 IKR=0.225 RB=1.37 RE=0.343 RC=0.137 CJE=2.95E-11
+ TF=3.97E-10 CJC=1.52E-11 TR=8.5E-8 XTB=1.5 )

.MODEL DZ10V D(IS=1E-11 RS=8.483 N=1.27 TT=5E-8 CJO=2.334E-10 VJ=0.75
+ M=0.33 BV=9.83 IBV=0.01 )
.ENDS 78L15
